US06864396B2
To a mixture of 492 grams of aluminum chloride and 988 mL of 1,2-dichloroethane was added 192 grams of benzene-1,2,4,5-tetracarboxylic acid dianhydride (pyromellitic dianhydride). The resulting mixture was cooled to 16° C. and a solution of 434 grams of 1-dodecylbenzene, 123 grams of diisopropylethylamine and 480 mL of 1,2-dichloroethane was added over a period of 3.5 hours, keeping the temperature between 15° C. and 20° C. during the addition. The mixture was stirred overnight at room temperature and poured into a beaker of 1000 grams of ice and 1000 grams concentrated hydrochloric acid. The mixture was stirred for one hour and the liquid was poured from the coagulate. The mixture was divided into 800 mL portions and each portion was worked up as follows. To 800 mL of the mixture was added 800 mL of tetrahydrofuran, 800 mL of ethyl acetate, and 800 mL of water. The mixture was stirred and phase split. The organic phase was filtered and the filtrate was concentrated in vacuo. The residues were combined. To 127 grams of the combined residue was added 800 mL of ethyl acetate and the mixture was stirred until a suspension of a fine solid resulted. The solid was collected by filtration and washed with 50 mL of ethyl acetate. The solid was dried to give 2,5-bis(4-dodecylbenzoyl)terephthalic acid.

reactant | aluminum chloride | 492 grams | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | benzene-1,2,4,5-tetracarboxylic acid dianhydride | 192 grams | C1=C2C(=CC3=C1C(=O)OC3=O)C(=O)OC2=O | C10H2O6
reactant | 1-dodecylbenzene | 434 grams | C(CCCCCCCCCCC)C1=CC=CC=C1 | C18H30
reactant | diisopropylethylamine | 123 grams | C(C)(C)N(CC)C(C)C | C8H19N
reactant | hydrochloric acid | 1000 grams | Cl | ClH
solvent | water | 800 mL | O | H2O
solvent | ethyl acetate | 800 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 800 mL | O1CCCC1 | C4H8O
solvent | 1,2-dichloroethane | 480 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 988 mL | ClCCCl | C2H4Cl2
product | 2,5-bis(4-dodecylbenzoyl)terephthalic acid | C(CCCCCCCCCCC)C1=CC=C(C(=O)C2=C(C(=O)O)C=C(C(=C2)C(=O)O)C(C2=CC=C(C=C2)CCCCCCCCCCCC)=O)C=C1 | C46H62O6
